US05036107
1-Cyclohexyl-1-phenyl-1-siloxy-hex-5-yn-2-one
To a stirred solution of 140 ml (0.65 moles) of hexamethyldisilazane in 1.6 L of dry THF cooled to -78° C. was added 280 ml of a 2.5M solution of n-BuLi in hexane. The mixture was stirred and warmed to -5° C. over a 0.5 hour period. The siloxy ketone (192 g, 10.632 moles) was added as a solution in 100 ml of THF and stirred at -5° C. for 1 hour. This was then added to a solution of 200 ml (1.8 moles) of 80% propargyl bromide/toluene in 800 ml THF at -78° C. The mixture was warmed slowly to room temperature over a 1 hour period, then it was poured into cold dilute hydrochloric acid and extracted with ether. The ether extracts were combined, dried, filtered and concentrated to give 216 g of a light brown oil which was used immediately in the next reaction without further purification.

reactant | hexamethyldisilazane | 0.65 moles, 140 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-BuLi | [Li]CCCC
reactant | siloxy ketone | 10.632 moles, 192 g | [SiH3]OC(=O)O[SiH3] | CH6O3Si2
reactant | propargyl bromide toluene | 1.8 moles, 200 ml | C(C#C)Br.C1(=CC=CC=C1)C
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 1.6 L | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 800 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-Cyclohexyl-1-phenyl-1-siloxy-hex-5-yn-2-one | 216 g | C1(CCCCC1)C(C(CCC#C)=O)(O[SiH3])C1=CC=CC=C1 | C18H24O2Si
